US07759349B2
Preparation of 2-[4-(2-Methoxyethoxy)phenyl]-6-butylimidazo[1,2-b]pyridazine (Compound 82)
A solution of 2-[4-(2-methoxyethoxy)phenyl]-6-chloroimidazo[1,2-b]pyridazine (304 mg, 1 mmol) in tetrahydrofuran (7 mL) was added with stirring to a solution of butylmagnesium bromide (10 mmol) (prepared from 1-bromobutane (1.37 g, 10 mmol) and magnesium turnings (0.27 g, 11 mmol) and a crystal of iodine in tetrahydrofuran (8 mL)) under an atmosphere of nitrogen. [1,3-Bis(diphenyl-phosphino)propane] dichloronickel(II) (81 mg, 0.15 mmol) was added and the resulting mixture was stirred at room temperature overnight. Saturated, aqueous ammonium chloride solution was added and the resulting mixture extracted with ether (100 mL). The organic layer was washed with brine (80 mL), dried and evaporated. The residue was radially chromatographed on silica gel. Elution with 1-3% methanol in dichloromethane provided Compound 82 (8 mg) as a brown solid. 1H n.m.r. (CDCl3) δ 0.97, t, J=7.3 Hz, 3H; 1.32-1.52, m, 2H; 1.64-1.84, m, 2H; 2.83, t, J=7.5 Hz, 2H; 3.47, s, 3H; 3.72-3.82, m, 2H; 4.12-4.22, m, 2H; 6.92-7.06, m, 3H; 7.86-7.94, m, 3H; 8.10, s, 1H. Mass spectrum (APCI+) m/z 326 (M+H, 100%).

reactant | 2-[4-(2-methoxyethoxy)phenyl]-6-chloroimidazo[1,2-b]pyridazine | 1 mmol, 304 mg | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)Cl)C1 | C15H14ClN3O2
reactant | butylmagnesium bromide | 10 mmol | C(CCC)[Mg]Br
reactant | 1-bromobutane | 10 mmol, 1.37 g | BrCCCC | C4H9Br
reactant | magnesium | 11 mmol, 0.27 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | dichloronickel(II) | 0.15 mmol, 81 mg | Cl[Ni]Cl
product | 2-[4-(2-Methoxyethoxy)phenyl]-6-butylimidazo[1,2-b]pyridazine | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)CCCC)C1 | C19H23N3O2
